US04107308
8-Methyl-imidazo[1,5-d]-as-triazine-4(3H)-thione
A suspension of 14.39 gm. of 3-(5-methyl-4-imidazolylmethylene)dithiocarbazic acid methyl ester in 100 ml. of diphenyl ether is reacted as described in Example 23 giving the desired product as yellow crystals, m.p. 262°-268° C.

reactant | 3-(5-methyl-4-imidazolylmethylene)dithiocarbazic acid methyl ester | CSC(NN=CC=1N=CNC1C)=S | C7H10N4S2
reactant | diphenyl ether | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | 8-Methyl-imidazo[1,5-d]-as-triazine-4(3H)-thione | CC=1N=CN2C(NN=CC21)=S | C6H6N4S
